US04031093
1,6-Dihydro-6-oxo-2-(2-cyclopropylmethoxyphenyl)pyrimidine-5-carboxylic acid
The title compound was prepared from ethyl 1,6-dihydro-6-oxo-2-(2-cyclopropylmethoxyphenyl)pyrimidine-5-carboxylate in a manner similar to that described for the preparation of 1,6-dihydro-6-oxo-2-(2-n-butoxyphenyl)pyrimidine-5-carboxylic acid in Example 23. The product had m.p. 219°-220°.

reactant | ethyl 1,6-dihydro-6-oxo-2-(2-cyclopropylmethoxyphenyl)pyrimidine-5-carboxylate | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC1CC1)C(=O)OCC | C17H18N2O4
reactant | 1,6-dihydro-6-oxo-2-(2-n-butoxyphenyl)pyrimidine-5-carboxylic acid | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCCCC)C(=O)O | C15H16N2O4
product | 1,6-Dihydro-6-oxo-2-(2-cyclopropylmethoxyphenyl)pyrimidine-5-carboxylic acid | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC1CC1)C(=O)O | C15H14N2O4
